US07781428B2
A mixture of methyl 2-(3-(benzyloxy)-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate, Example 30, (345 mg, 0.68 mmol), catalytic 10% palladium on carbon, and ethyl acetate was hydrogenated at 30 psi hydrogen for three hours. The mixture was filtered through Celite and concentrated. The solid was suspended in diethyl ether/hexanes, a small amount of methanol and filtered to give methyl 2-(4-cyano-3-hydroxyphenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate (150 mg, 0.36 mmol, 53% yield). The title compound was largely present as (±)-(3RS,3aSR)-methyl 2-(4-cyano-3-hydroxyphenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.10-1.58 (m, 7H), 1.60-1.90 (m, 2H), 2.06 (s, 1H), 2.16-2.30 (m, 1H), 2.79-2.95 (m, 1H), 3.05-3.15 (m, 1H), 3.58 (ddd, J=13.76, 9.47, 4.70 Hz, 1H), 3.86 (s, 3H), 4.77 (dd, J=9.67, 5.37 Hz, 1H), 6.70 (d, J=8.59 Hz, 1H), 6.82 (s, 1H), 7.36 (d, J=8.86 Hz, 1H), 7.82-7.93 (m, 2H), 8.02 (d, J=8.06 Hz, 1H), 10.70 (s, 1H). ES-MS m/z 416 (M+H).

reactant | methyl 2-(3-(benzyloxy)-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate | C(C1=CC=CC=C1)OC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)OC | C32H31N3O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-(4-cyano-3-hydroxyphenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate | 0.36 mmol, 150 mg, 53% yield | C(#N)C1=C(C=C(C=C1)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)OC)O | C25H25N3O3
